US05382572
The 1-hexyl-3-formyl-4-hydroxy-6-methyl-2(1H)-quinolinone was obtained by following Steps (2) to (4) of Preparation A wherein hexyl bromide was reacted with 6-methyl-isatoic anhydride to produce 1-hexyl-4-hydroxy-6-methyl-2(1H)-quinolinone. Then the 1-hexyl-4-hydroxy-6-methyl-2(1H)-quinolinone was converted to 1-hexyl-3-formyl-4-hydroxy-6-methyl-2(1H)-quinolinone following the procedure of Preparation B.

reactant | 1-hexyl-3-formyl-4-hydroxy-6-methyl-2(1H)-quinolinone | C(CCCCC)N1C(C(=C(C2=CC(=CC=C12)C)O)C=O)=O | C17H21NO3
reactant | hexyl bromide | C(CCCCC)Br | C6H13Br
reactant | 6-methyl-isatoic anhydride | CC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO3
product | 1-hexyl-4-hydroxy-6-methyl-2(1H)-quinolinone | C(CCCCC)N1C(C=C(C2=CC(=CC=C12)C)O)=O | C16H21NO2
